US07576083B2
2,4-Dichloro-N-{[4-(morpholin-4-ylcarbonyl)-1-(propylsulfonyl)piperidin-4-yl]methyl}benzamide (I-6)
A mixture of {[4-(morpholin-4-ylcarbonyl)-1-(propylsulfonyl)piperidin-4-yl]methyl}amine (I-5) (33 mg, 0.10 mmole), DIEA (35 μL, 0.20 mmole), and 2,4-dichlorobenzoyl chloride (23 mg, 0.11 mmole) in DCM (2 mL) was shaken 1 h at room temperature. After this time, LCMS indicated that the reaction was completion. DCM was removed by nitrogen gas flow and the residue was purified by LCMS to afford the title compound (I-6) as a white solid. Analytical LCMS: single peak (214 nm), 2.867 min. 1H NMR (600 MHz, CD3CN): δ 7.52 (dd, J=0.9, 1.5 Hz, 2H), 7.39 (m, 2H), 6.98 (t, J=5.9 Hz, 1H), 3.63 (m, 10H), 3.49 (m, 2H), 3.05 (m, 2H), 2.89 (t, J=7.8 Hz, 2H), 2.30 (m, 2H), 1.74 (m, 2H), 1.62 (m, 2H), 1.01 (t, J=7.4 Hz, 3H); HRMS: calc'd for C21H29Cl2N3O5S [M+H], 506.1278; found 506.1248.

reactant | {[4-(morpholin-4-ylcarbonyl)-1-(propylsulfonyl)piperidin-4-yl]methyl}amine | 0.10 mmole, 33 mg | N1(CCOCC1)C(=O)C1(CCN(CC1)S(=O)(=O)CCC)CN | C14H27N3O4S
reactant | DIEA | 0.20 mmole, 35 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichlorobenzoyl chloride | 0.11 mmole, 23 mg | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2,4-Dichloro-N-{[4-(morpholin-4-ylcarbonyl)-1-(propylsulfonyl)piperidin-4-yl]methyl}benzamide | ClC1=C(C(=O)NCC2(CCN(CC2)S(=O)(=O)CCC)C(=O)N2CCOCC2)C=CC(=C1)Cl | C21H29Cl2N3O5S
